US07446199B2
Step A: 5-Bromo-1-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine
To a solution of 5-bromo-1H-pyrrolo[2,3-b]pyridine (600 mg, 3.06 mmol) in dry THF (30 mL) was added NaH (246 mg, 6.12 mmol) at room temperature. The suspension was stirred for 30 min before addition of methanesulfonyl chloride (540 mg, 4.80 mmol). The solution was stirred at room temperature for another 30 min and poured into water (50 mL). The aqueous solution was extracted with ethyl acetate (2×30 mL), the combined organic layers were dried over MgSO4 and filtered, the filtrate was evaporated under vacuum to afford white solid (780 mg, 93%). The crude product was used directly for the next reaction. LC/MS: Rt 3.26 mis.; (m/e=275.0, 276.9 (M+H, M+2+H).

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine | 3.06 mmol, 600 mg | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | NaH | 6.12 mmol, 246 mg | [H-].[Na+]
reactant | methanesulfonyl chloride | 4.80 mmol, 540 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-Bromo-1-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 780 mg, 93% | BrC=1C=C2C(=NC1)N(C=C2)S(=O)(=O)C | C8H7BrN2O2S
